US07601870B2
(4-Bromo-2,6-dimethyl-phenyl)-carbamic acid 2-methoxy-ethyl ester
4-Bromo-2,6-dimethyl-aniline (2.00 g) and chloroformic acid 2-methoxyethyl ester (1.52 g) were dissolved in acetonitrile (25 mL) and heated to 130° C. for 15 minutes in a sealed microwave process vial. Water (25 mL) was added to the reaction mixture, and the product was collected by filtration and washed with water (25 mL) and heptane (25 mL) to furnish 2.48 g (82% yield) of the title compound as a white solid. LC-MS (m/z) 304 (MH+); tR=2.93, (UV, ELSD) 96%, 97%. 1H NMR (500 MHz, CDCl3): 2.36 (m, 6H), 3.40 (m, 3H), 3.60 (m, 2H), 4.35 (m, 2H), 6.55 (broad s, 1H), 7.45 (s, 2H).

reactant | 4-Bromo-2,6-dimethyl-aniline | 2.00 g | BrC1=CC(=C(N)C(=C1)C)C | C8H10BrN
reactant | chloroformic acid 2-methoxyethyl ester | 1.52 g | COCCOC(=O)Cl | C4H7ClO3
reactant | Water | 25 mL | O | H2O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | (4-Bromo-2,6-dimethyl-phenyl)-carbamic acid 2-methoxy-ethyl ester | 2.48 g, 82% yield | COCCOC(NC1=C(C=C(C=C1C)Br)C)=O | C12H16BrNO3
